US05322842
To a solution of 2N-boron trichloride in benzene (82 ml) was dropwise added a solution of 1-methyl-1,2,3,4-tetrahydroquinoxaline (19.87 g) in toluene (40 ml) under stirring. To the resultant mixture was dropwise added a solution of 2-fluorobenzonitrile (19.50 g) in toluene (30 ml) at ambient temperature under stirring and the mixture was stirred for 1.5 hours under the same condition. To this mixture was added aluminum trichloride (19.65 g) and the mixture was refluxed for 16 hours. Water (30 ml) and 2N-hydrochloric acid (100 ml) were added to the reaction mixture under cooling in an ice-bath and the mixture was refluxed for 2.5 hours. After the mixture was allowed to stand at ambient temperature for several hours, ethyl acetate was added to the mixture. The organic layer was separated, washed with water twice, dried over magnesium sulfate and evaporated under reduced pressure. The residue was chromatographed on silica gel with an eluent of n-hexane. The fractions containing the desired product were combined and evaporated. The resultant red oil was crystallized with diisopropyl ether, collected by filtration and dried to give 1-methyl-5-(2-fluorobenzoyl)-1,2,3,4-tetrahydroquinoxaline (11.71 g).

reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | 1-methyl-1,2,3,4-tetrahydroquinoxaline | 19.87 g | CN1CCNC2=CC=CC=C12 | C9H12N2
reactant | 2-fluorobenzonitrile | 19.50 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | aluminum trichloride | 19.65 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 82 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 30 ml | O | H2O
product | 1-methyl-5-(2-fluorobenzoyl)-1,2,3,4-tetrahydroquinoxaline | 11.71 g | CN1CCNC2=C(C=CC=C12)C(C1=C(C=CC=C1)F)=O | C16H15FN2O
